US06573274B1
To a solution of 2-[N-(4-acetoxy-2-chlorobenzyl)acetamido]-6-bromo-3-nitropyridine (1.28 g) in ethanol (13 ml) were added acetic acid (1.5 ml) and reduced iron powder (646 mg), and the mixture was refluxed under heating at 110° C. for 15 hr. After allowing to cool, chloroform/methanol=10/1 (15 ml) was added and the mixture was stirred under ice-cooling. The insoluble matter was filtered off and the filtrate was concentrated. A saturated aqueous sodium hydrogen carbonate solution (5 ml) and chloroform/methanol=10/1 (15 ml) were added to make the mixture alkaline, and the precipitated insoluble matter was filtered off. The residue was repeatedly eluted with chloroform/methanol=5/1-2/1-1/1. The organic layer of the filtrate was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated. To the resulting crystals was added ethyl acetate (8 ml), and the mixture was heated and stirred at room temperature. The crystals were collected by filtration and dried under reduced pressure to give 5-bromo-3-(2-chloro-4-hydroxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine as colorless crystals (1.04 g).

reactant | 2-[N-(4-acetoxy-2-chlorobenzyl)acetamido]-6-bromo-3-nitropyridine | 1.28 g | C(C)(=O)OC1=CC(=C(CN(C(C)=O)C2=NC(=CC=C2[N+](=O)[O-])Br)C=C1)Cl | C16H13BrClN3O5
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | 5-bromo-3-(2-chloro-4-hydroxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 1.04 g | BrC1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)O)Cl | C14H11BrClN3O
